US04889854
0.54 g of methyl 4,5-dihydro-7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno[2,3-d]pyridazine-10-carboxylate are suspended in 16 ml of acetic anhydride and heated to about 100° for 3 hours. The reaction solution is evaporated in vacuo and the residue is taken up in 32 ml of water and stirred up. The mixture is extracted twice with 30 ml of dichloromethane each time and once with 15 ml of dichloromethane. After drying over sodium sulfate, it is filtered and evaporated in vacuo. The residue is chromatographed on silica gel with dichloromethane/acetone (9:1). By recrystallization from ether there is obtained methyl 5-acetyl-4,5-dihydro-7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno[2,3-d]pyridazine-10-carboxylate of m.p. 132°-134°.

reactant | methyl 4,5-dihydro-7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno[2,3-d]pyridazine-10-carboxylate | 0.54 g | O=C1C(=CC(=C2N1NCC1=C2SC=C1)C(=O)OC)C1=CC=CC=C1 | C18H14N2O3S
reactant | acetic anhydride | 16 ml | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 5-acetyl-4,5-dihydro-7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno[2,3-d]pyridazine-10-carboxylate | C(C)(=O)N1N2C(C3=C(C1)C=CS3)=C(C=C(C2=O)C2=CC=CC=C2)C(=O)OC | C20H16N2O4S
